US03941786
9.33 gm of 2-isopropyl-4-hydroxy-6-chloromethyl-pyrimidine (0.0495 mole) and 13.60 gm of sodium acetate (having 3 molecules water of crystallization, 0.10 mole) were heated in 200 ml of water under reflux (atmospheric pressure). At the 5, 24 and 48 hours periods in the reaction, the reaction was interrupted and the pH of the reaction mixture was adjusted to 7 with 1N sodium hydroxide solution. After 72 hours overall duration, the reaction was discontinued. (Throughout this reaction period the pH was always between 5 and 8.) 50 ml of 1N hydrochloric acid were added. Over a 5 hour period, acetic acid and water were distilled off, with the lost water continuously being replaced. The distillation residue was brought to a pH of 5 and was evaporated until dry. The dry residue subsequently was extracted with methylene chloride in a Soxhlet extractor (separation of NaCl and sodium acetate). After distillation off of the methylene chloride, the 2-isopropyl-4-hydroxy-6-hydroxymethyl-pyrimidine was obtained. The yield of the product was 93.72 percent and the product has a purity of 97.9 percent. The melting point of the product was 186.2° to 186.5°C.

reactant | 2-isopropyl-4-hydroxy-6-chloromethyl-pyrimidine | 0.0495 mole, 9.33 gm | C(C)(C)C1=NC(=CC(=N1)O)CCl | C8H11ClN2O
reactant | sodium acetate | 0.10 mole, 13.60 gm | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 2-isopropyl-4-hydroxy-6-hydroxymethyl-pyrimidine | C(C)(C)C1=NC(=CC(=N1)O)CO | C8H12N2O2
